### PR TITLE
Adapt to coq/coq#15789

### PR DESCRIPTION
**Pull request by proux01**
Adapt to https://github.com/coq/coq/pull/15789

The upstream PR generalizes coercions by removing the uniform inheritance conditions.
Unimath has ambiguous coercion paths that were inocuous before because some of them did not satisfy the uniform inheritance condition, hence were never applied. Now that they do, a few conflict appear. I make here a quick fix, It's probably possible to get a nicer fix, but not knowing the library, I'm unable to do it. Anyway, the change is backward compatible and appart a few more not nice looking lines, it doesn't change anything.

### CODE REVIEW

**Comment by benediktahrens** [comment]
Dear @proux01 , thanks a lot for providing this fix. 

It seems that the right course of action would be to
1. merge your PR as is right now, to not impede on the merging and testing of the changes to Coq, and
2. make a more readable modification to UniMath later, when UniMath will adopt the version of Coq with the relaxed coercion.

**Comment by proux01** [comment]
Thanks @benediktahrens for your quick answer, that looks good to me.

File: UniMath/Bicategories/DisplayedBicats/Examples/CwF.v [hunk 1]
```diff
@@ -133,9 +133,11 @@ Lemma transportf_yy
...
       (F : opp_precat_data C ⟶ SET) (c c' : C) (A : (F : functor _ _ ) c : hSet)
       (e : c = c')
-  : yy (transportf (fun d => (F : functor _ _ ) d : hSet) e A)
-    =
-    transportf (fun d => nat_trans (yoneda _ d : functor _ _) F) e (yy A).
+  : paths
+    (pr1weq
+       (@yy C F c')
+       (@transportf _ (fun d => pr1hSet (functor_on_objects F d : hSet)) _ _ e A))
+    (@transportf _ (fun d => nat_trans _ F) _ _ e (pr1weq (@yy C F c) A)).
```
Comment (benediktahrens) [inline UniMath/Bicategories/DisplayedBicats/Examples/CwF.v:140]:
```suggestion
(* TODO: see #1470 *)
  : paths
    (pr1weq
       (@yy C F c')
       (@transportf _ (fun d => pr1hSet (functor_on_objects F d : hSet)) _ _ e A))
    (@transportf _ (fun d => nat_trans _ F) _ _ e (pr1weq (@yy C F c) A)).
```

File: UniMath/Bicategories/DisplayedBicats/Examples/CwF.v [hunk 2]
```diff
@@ -192,7 +194,15 @@ Section CwFRepresentation.
...
-    : functor_on_morphisms Yo π · yy A = yy t · pp.
+    : @paths _
+    (@compose _ _
+       (@functor_on_objects _ (functor_category _ HSET_univalent_category) _ Γ)
+       Ty (functor_on_morphisms _ π)
+       (pr1weq (@yy C Ty Γ) A))
+    (@compose _
+       (@functor_on_objects _ (functor_category _ hset_category) _ ΓA)
+       Tm Ty
+       (pr1weq (@yy C Tm ΓA) t) pp).
```
Comment (benediktahrens) [inline UniMath/Bicategories/DisplayedBicats/Examples/CwF.v:205]:
```suggestion
(* TODO: see #1470 *)
    : @paths _
    (@compose _ _
       (@functor_on_objects _ (functor_category _ HSET_univalent_category) _ Γ)
       Ty (functor_on_morphisms _ π)
       (pr1weq (@yy C Ty Γ) A))
    (@compose _
       (@functor_on_objects _ (functor_category _ hset_category) _ ΓA)
       Tm Ty
       (pr1weq (@yy C Tm ΓA) t) pp).
```

File: UniMath/CategoryTheory/DisplayedCats/Fibrations.v [hunk 3]
```diff
@@ -1015,7 +1015,12 @@ Proof.
   use make_weq.
   - exact (λ HD c₁ c₂ cc₁ f,
            let ℓ := HD c₁ c₂ f cc₁ in
-           pr1 ℓ ,, pr12 ℓ ,, is_cartesian_weq_is_opcartesian _ ℓ).
+           tpair
+             (fun cc₂ => total2 (fun ff => @is_opcartesian _ _ _ _ _ cc₁ cc₂ ff))
+             (pr1 ℓ)
+             (tpair
+                (@is_opcartesian _ _ _ _ _ cc₁ ℓ) (pr12 ℓ)
+                (pr1weq (is_cartesian_weq_is_opcartesian ℓ) ℓ))).
```
Comment (benediktahrens) [inline UniMath/CategoryTheory/DisplayedCats/Fibrations.v:1023]:
```suggestion
(* TODO: see #1470 *)
           tpair
             (fun cc₂ => total2 (fun ff => @is_opcartesian _ _ _ _ _ cc₁ cc₂ ff))
             (pr1 ℓ)
             (tpair
                (@is_opcartesian _ _ _ _ _ cc₁ ℓ) (pr12 ℓ)
                (pr1weq (is_cartesian_weq_is_opcartesian ℓ) ℓ))).
```

File: UniMath/CategoryTheory/DisplayedCats/Fibrations.v [hunk 4]
```diff
@@ -1033,7 +1038,14 @@ Proof.
...
            let ℓ := HD c₁ c₂ f cc₁ in
-           pr1 ℓ ,, pr12 ℓ ,, is_opcartesian_weq_is_cartesian _ (pr22 ℓ)).
+           tpair
+             (fun d' => total2 (fun ff => @is_cartesian _ _ _ _ _ f d' ff))
+             (pr1 ℓ)
+             (tpair
+                (@is_cartesian _ _ _ _ _ f (pr1 ℓ)) (pr12 ℓ)
+                (pr1weq
+                   (@is_opcartesian_weq_is_cartesian _ D _ _ _ _ _ (pr12 ℓ))
+                   (pr22 ℓ)))).
```
Comment (benediktahrens) [inline UniMath/CategoryTheory/DisplayedCats/Fibrations.v:1048]:
```suggestion
(* TODO: see #1470 *)
           tpair
             (fun d' => total2 (fun ff => @is_cartesian _ _ _ _ _ f d' ff))
             (pr1 ℓ)
             (tpair
                (@is_cartesian _ _ _ _ _ f (pr1 ℓ)) (pr12 ℓ)
                (pr1weq
                   (@is_opcartesian_weq_is_cartesian _ D _ _ _ _ _ (pr12 ℓ))
                   (pr22 ℓ)))).
```

**Review by benediktahrens — APPROVED** [review]
I just suggest to add pointers to the PR (better: the issue about the PR) in the modified places.

**Comment by proux01** [comment]
Thanks

**Comment by proux01** [comment]
CI green

**Comment by proux01** [comment]
Thanks!

**Comment by benediktahrens** [comment]
@proux01 : Thanks to you! We very much appreciate the efforts by you and the whole Coq Development Team to keep UniMath compatible with Coq.
